US05223513
A mixture of ethyl 6-chloro-4-(2-chlorophenyl)-1,2-dihydro -2-oxo-3-quinolinecarboxylate (1.0 g), phosphorus oxychloride (5 ml) and pyridine (0.5 ml) was refluxed for 16 hours. The mixture was concentrated under reduced pressure. Water was added to the residue to obtain ethyl 2,6-dichloro-4-(2-chlorophenyl)-3-quinolinecarboxylate (0.7 g). The product was dissolved in methanol (20 ml), to which 28% sodium methoxide-methanol solution (0.5 ml) was added. The mixture was refluxed for 3 hours, and then diluted with water to obtain methyl 6-chloro-4-(2-chlorophenyl) -2-methoxy-3-quinolinecarboxylate as crystals (0.61 g, 61.0%). Recrystallization from methanol gave colorless needles. mp 151°-152° C.

reactant | ethyl 6-chloro-4-(2-chlorophenyl)-1,2-dihydro -2-oxo-3-quinolinecarboxylate | 1.0 g | ClC=1C=C2C(=C(C(NC2=CC1)=O)C(=O)OCC)C1=C(C=CC=C1)Cl | C18H13Cl2NO3
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2,6-dichloro-4-(2-chlorophenyl)-3-quinolinecarboxylate | 0.7 g | ClC1=NC2=CC=C(C=C2C(=C1C(=O)OCC)C1=C(C=CC=C1)Cl)Cl | C18H12Cl3NO2
